US06090817
A stirred mixture of 3'-bromo-4'-methoxy-[1,1'-biphenyl]-4-carboxylic acid, ethyl ester (26.6 g, 79.3 mmol), 3-nitrophenylboronic acid (21.2 g, 127 mmol), tri-o-tolylphosphine (2.51 g, 8.26 mmol), palladium (II) acetate (0.91 g, 4.05 mmol), potassium carbonate (21.9 g, 159 mmol) and water (100 mL) in dimethylformamide (400 mL) is heated at 60° C. for 2 h. The mixture is then treated with water (1000 mL) and extracted with ethyl acetate (3×200 mL). The combined extracts are dried (Na2SO4), filtered and the solvent is evaporated off under reduced pressure to yield the crude product which is purified by chromatography (silica gel, 10% ethyl acetate in cyclohexane) to give 4'-methoxy-3'-(3-nitrophenyl)-[1,1'-biphenyl]-4-carboxylic acid, ethyl ester as a colourless crystalline solid, m.p. 106-108° C.

reactant | 3'-bromo-4'-methoxy-[1,1'-biphenyl]-4-carboxylic acid, ethyl ester | 79.3 mmol, 26.6 g | BrC=1C=C(C=CC1OC)C1=CC=C(C=C1)C(=O)OCC | C16H15BrO3
reactant | 3-nitrophenylboronic acid | 127 mmol, 21.2 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | tri-o-tolylphosphine | 8.26 mmol, 2.51 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | potassium carbonate | 159 mmol, 21.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 400 mL | CN(C=O)C | C3H7NO
catalyst | palladium (II) acetate | 4.05 mmol, 0.91 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 1000 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 4'-methoxy-3'-(3-nitrophenyl)-[1,1'-biphenyl]-4-carboxylic acid, ethyl ester | COC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-] | C22H19NO5
